Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abnormal screening MRI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo R-handed woman with history of perinatal
ICH who presents to the ED after incidental vertebral artery
dissection and infarct was found on screening MRI brain. 

___ Ms. ___ had stomach flu (emesis and diarrhea
without fever), and she started to have neck pain after multiple
episodes of emesis. This pain is left neck, constant dull ache
radiating to left shoulder, with sharp pain if she turns her 
head
to the right. This pain has been constant and unabated since 
that
time. She has tried advil and heat, which have been ineffective. 


She has been feeling fatigued/low energy since stomach flu
(emesis/diarrhea) ended ___. She has had a sore throat and
cough the past ___ days. No fevers.   

Her mother had aneurysmal SAH (basilar aneurysm) in ___, and
this raised concern in the family for possibility of aneurysms.
No other family members have aneurysms. She discussed screening
for aneurysms with her PCP (___), who referred her to ___, who saw her on ___. 
"Pupils are 7->5 and brisk, occasionally when looking at her, it
would seem as though her R pupil was miotic but then on
confrotation would be symmetric, c/w hippus - no clear worsening
in light or dark." Exam was otherwise normal. 
Dr. ___ MRI/MRA for one time screening for
cerebral aneurysms. 

That scan occurred today, and there was incidental note of a
punctate L cerebellar infarct. Vessel imaging (TOF MRA) was then
also obtained of the neck in addition to the head, and she was
found to have a left V2 dissection. 

Regarding her history of perinatal ICH, Ms. ___ was born at
34 weeks via SVD. Further details unknown about the location nor
severity of the ICH. She hit all major milestones in childhood
and has had no neurologic problems. 
 

 
Past Medical History:
perinatal ICH
No history of miscarriages. 

 
Social History:
Never smoker. No EtOH. Married. Works in ___ 
___
at ___. Has two children. 

- Modified ___ Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
MGF with CAD and PVD; stroke in ___
MGM with cancer (details unknown) D. age ___. 
PGM with colon cancer; stroke in ___.
Mother with ruptured cerebral aneurysm, HTN, depression, basal
cell CA, 2 miscarriages. 
No family history of other dissection, aneurysm, or any
connective tissue disease. 

One family member with ___ syndrome
 
Physical Exam:
Admission exam:
Vitals:  T: 97.2 HR: ___ BP: ___ RR: ___ SaO2: 
100%
RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Speech is fluent
with normal grammar and syntax. No paraphasic errors. Naming
intact to low frequency words.  Comprehension intact to complex,
cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 6->3. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii
bilaterally. Tongue protrudes in midline and moves briskly to
each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                  
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    2   2     +               +  
 R  3  2    3    2   2     +               +     
Plantar response was flexor bilaterally.

-Sensory: Intact to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. Cerebellar check without rebound. No overshoot with
mirroring bilaterally.  Good speed and intact cadence with gross
and fine rapid alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Able to 
perform
heel/toe/tandem gait. 

==============================
Discharge exam:
VS: Temp: 98.7 (Tm 98.7), BP: 110/71 (110-129/71-80), HR: 57
(57-81), RR: 16 (___), O2 sat: 98% (97-99), O2 delivery: RA,
Wt: 138.89 lb/___ kg 

Exam 
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive to exam. Speech is fluent
with normal grammar and syntax. No paraphasic errors. Naming
intact to low frequency words.  Comprehension intact to complex,
cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 6->3. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii
bilaterally. Tongue protrudes in midline and moves briskly to
each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                  
R  5    ___   ___  5   5    5  5                 

-DTRs: ___ this AM

-Sensory: Intact to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. Cerebellar testing without rebound. No overshoot
with mirroring bilaterally. Good speed and intact cadence with
gross and fine rapid alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Able to 
perform
heel/toe/tandem gait. 

 
Pertinent Results:
CTA head and neck ___
IMPRESSION: 
  
  
1. Acute small left inferior cerebellar infarct is 
re-identified.  The 
remainder of the noncontrast CT head is unremarkable. 
2. Re-identified is short-segment luminal narrowing of the 
distal left V2 
segment at the C3 and C4 vertebral levels, compatible with 
dissection.  The 
remainder of the CTA neck is unremarkable. 
3. Unremarkable CTA of the head. 
4. Additional findings as described above. 
  

 
Brief Hospital Course:
This is a ___ year old woman who presented to the ED after 
incidental left cerebellar infarct and reportedly left vertebral 
dissection seen on screening MRI/MRI brain for familial 
aneurysm. Repeat CTA head and neck at ___ did not show any 
evidence of dissection. Etiology of small left cerebellar stroke 
unclear at this time. It is certainly possible that she had a 
dissection resulting in stroke, and that the dissection healed 
within the past few days. However, she warrants further work up 
with TTE and hypercoaguable work up to rule out other causes of 
stroke. At this time we recommend continuing on ASA 81mg and 
atorvastatin. She will have an outpatient TTE with bubble study, 
as well as hypercoaguable work up. She should stop taking her 
oral contraceptive for now until work up has been completed. She 
should avoid lifting objects heavier than 20 pounds. LDL 82, A1c 
5.2.

Transitional issues: 
# F/U outpatient TTE with bubble
# Complete hypercoagubale work up!
The following labs have been sent in-house and are still pending 
at time of discharge:
-Cardiolipin antibodies
-lupus anticoagulant
-beta-2-glycoprotein

The following labs still need to be sent as an outpatient: 
-Protein C and Protein S
-Factor 5 ___, ___ gene mutation
-Antithrombin Antigen  

=========================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =82 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason () 
non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Norethindrone-Estradiol 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*7 
Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*6 
4.  Norethindrone-Estradiol 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear ___,  
 ___ were hospitalized because ___ were found to have a small 
stroke on screening MRI. Your MRA from the outside hospital was 
read as vertebral artery dissection. However, repeat imaging 
with a CTA head and neck here at ___ did not show any evidence 
of a dissection. 
___ do however, have the small stroke. The etiology of the 
stroke is unclear at this time. It is certainly possible that 
___ might have had a dissection that causes the small stroke and 
the dissection healed in the past few days and thus we do not 
see any evidence anymore on CTA. However, it is also possible 
that ___ have other reasons that predispose ___ to stroke such 
as a Patent ___ (PFO) in your heart, or an underlying 
hypercoaguabilty disorder which could make your blood more 
sticky and lead to strokes. At this time, we think it is 
reasonable to perform further work up including an echo of your 
heart and lab work as an outpatient. For now ___ should continue 
the aspirin 81mg daily. We also found that your lipids were 
elevated and thus we will start ___ at atorvastatin 40mg at 
night for one week. After the one week ___ can reduce the dose 
to 10 mg at night. ___ should also get repeat lipid panel 
testing in 4 weeks by your PCP. What ___ can do to lower your 
lipids is eating a healthy diet with out fried food etc. 
___ should also for now avoid lifting objects heavier than 20 
pounds. ___ should also for now stop taking your oral 
contraceptive until we completed our work up. 

  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___